US05411989
trans-N-acetyl-4-nitroxycyclohexylamine
2-cyano-N-(trans-4-nitroxycyclohexyl)-acetic acid amide from 2-cyano-N-(trans-4-hydroxycyclohexyl)-acetic acid amide melting point: 149°-150° C. (ether), yield: 53% of theory.

reactant | 2-cyano-N-(trans-4-nitroxycyclohexyl)-acetic acid amide | C(#N)CC(=O)N[C@@H]1CC[C@H](CC1)O[N+](=O)[O-] | C9H13N3O4
reactant | 2-cyano-N-(trans-4-hydroxycyclohexyl)-acetic acid amide | C(#N)CC(=O)N[C@@H]1CC[C@H](CC1)O | C9H14N2O2
product | trans-N-acetyl-4-nitroxycyclohexylamine | yield: 53% | C(C)(=O)N[C@@H]1CC[C@H](CC1)O[N+](=O)[O-] | C8H14N2O4
